US07053060B2
To a solution of 2-(4-allyloxybenzyl)phenyl 2,3,4,6-tetra-O-acetyl-β-D-glucopyranoside (0.44 g) in methanol (2.5 mL) and tetrahydrofuran (1.5 mL) was added sodium methoxide (28% methanol solution, 0.030 mL), and the mixture was stirred at room temperature for 4 hours. The solvent of the reaction mixture was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: dichloromethane/methanol=10/1) to give 2-(4-allyloxybenzyl)phenyl β-D-glucopyranoside (0.23 g).

reactant | 2-(4-allyloxybenzyl)phenyl 2,3,4,6-tetra-O-acetyl-β-D-glucopyranoside | 0.44 g | C(C)(=O)O[C@H]1[C@H](OC2=C(C=CC=C2)CC2=CC=C(C=C2)OCC=C)O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O | C30H34O11
reactant | sodium methoxide | 0.030 mL | C[O-].[Na+]
solvent | methanol | 2.5 mL | CO | CH4O
solvent | tetrahydrofuran | 1.5 mL | O1CCCC1 | C4H8O
product | 2-(4-allyloxybenzyl)phenyl β-D-glucopyranoside | 0.23 g | O([C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)C1=C(C=CC=C1)CC1=CC=C(C=C1)OCC=C | C22H26O7
